US08357679B2
1-(2-Fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-phenylurea
(4-Amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone (0.209 mmol, 0.1 g) and isocyanatobenzene (0.229 mmol, 0.025 mL, 0.027 g) were combined and heated in the microwave at 100° C. for 10 minutes. Further isocyanatobenzene (0.229 mmol, 0.025 mL, 0.027 g) was added and the reaction heated in the microwave for a further 10 minutes at 100° C. The reaction mixture was concentrated under reduced pressure and purified by acidic preparative HPLC to afford the title compound (71 mg). MS (ESI) m/z 599.0 [M+H]+

reactant | (4-Amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 0.209 mmol, 0.1 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C21H20F7N3O2
reactant | isocyanatobenzene | 0.229 mmol, 0.025 mL, 0.027 g | N(=C=O)C1=CC=CC=C1 | C7H5NO
reactant | isocyanatobenzene | 0.229 mmol, 0.025 mL, 0.027 g | N(=C=O)C1=CC=CC=C1 | C7H5NO
product | 1-(2-Fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-phenylurea | 71 mg | FC1=C(C=CC(=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(=O)NC1=CC=CC=C1 | C28H25F7N4O3
